US08039460B2
Step B: N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]-1-methyl-2,4-dioxo-1,3,8-triazaspiro[4.5]decane-8-carboxamide
Triethylamine (70 μL, 0.50 mmol) was added to a solution of the hydrochloride salt of (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine (70 mg, 0.167 mmol) and 4-nitrophenyl chloroformate (34 mg, 0.167 mmol) in tetrahydrofuran (2 mL) at 0° C. After 15 min, a solution of 1-methyl-1,3,8-triazaspiro[4.5]decane-2,4-dione (31 mg, 0.167 mmol) in dichloromethane (2 mL) and triethylamine (93 μL, 0.67 mmol) were added and the mixture was allowed to warn to ambient temperature. After 4 h, saturated aqueous sodium carbonate was added and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate (3×), saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→90% dichloromethane/methanol) gave the title compound (33 mg). MS 555.2107 (M+1).

reactant | Triethylamine | 0.50 mmol, 70 μL | C(C)N(CC)CC | C6H15N
reactant | (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine | 0.167 mmol, 70 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)N | C16H16F5N3
reactant | 4-nitrophenyl chloroformate | 0.167 mmol, 34 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 1-methyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | 0.167 mmol, 31 mg | CN1C(NC(C12CCNCC2)=O)=O | C8H13N3O2
reactant | triethylamine | 0.67 mmol, 93 μL | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]-1-methyl-2,4-dioxo-1,3,8-triazaspiro[4.5]decane-8-carboxamide | 33 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)NC(=O)N2CCC1(C(NC(N1C)=O)=O)CC2 | C25H27F5N6O3
